US03989824
Bis(p-chlorophenyl)propylphosphine was prepared by reacting 0.2 mole of propyldichlorophosphine with a 0.4 mole of p-chlorophenylmagnesium bromide. The product was isolated by chloroform extraction and distillation as previously described. The portion boiling between 160° and 165° C. under a pressure of 2 mm. Hg was collected. The analysis corresponded to bis(p-chlorophenyl)propylphosphine.

reactant | propyldichlorophosphine | 0.2 mole | C(CC)P(Cl)Cl | C3H7Cl2P
reactant | p-chlorophenylmagnesium bromide | 0.4 mole | ClC1=CC=C(C=C1)[Mg]Br
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Bis(p-chlorophenyl)propylphosphine | ClC1=CC=C(C=C1)C(CCP)C1=CC=C(C=C1)Cl | C15H15Cl2P
